US05457105
A mixture of 7-(2-bromoethoxy)-6-methoxy-4-(3'-methylanilino)quinazoline (0.25 g) and morpholine (4 ml) was stirred at ambient temperature for 4 hours. The mixture was evaporated and the residue was partitioned between methylene chloride and a dilute aqueous sodium bicarbonate solution. The organic phase was dried (MgSO4) and evaporated. The residue was triturated under diethyl ether to give 6-methoxy-4-(3'-methylanilino)-7-(2-morpholinoethoxy)quinazoline (0.198 g), m.p. 168°-170° C. NMR Spectrum: (CD3SOCD3 +CD3CO2D) 2.35 (s, 3H), 3.15 (t, 4H), 3.81 (t, 4H), 3.96 (s, 3H), 6.93 (d, 1H), 7.21 (s, 1H), 7.26 (t, 1H), 7.58 (s, 1H), 7.63 (d, 1H), 7.84 (s, 1H), 8.44 (s, 1H), 9.58 (s, 1H); Elemental Analysis: Found C, 64.3; H, 6.9; N, 13.8; C22H26N4O3. 0.9H2O requires C, 64.3; H, 6.8; N, 13.6%.

reactant | 7-(2-bromoethoxy)-6-methoxy-4-(3'-methylanilino)quinazoline | 0.25 g | BrCCOC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)C)OC | C18H18BrN3O2
reactant | morpholine | 4 ml | N1CCOCC1 | C4H9NO
product | 6-methoxy-4-(3'-methylanilino)-7-(2-morpholinoethoxy)quinazoline | 0.198 g | COC=1C=C2C(=NC=NC2=CC1OCCN1CCOCC1)NC1=CC(=CC=C1)C | C22H26N4O3
